US05371093
[Benzo[b ]thiophene-3-yl][1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methanone
Mix (benzo[b]thiophene-3-yl)(4-piperidinyl)methanone.CF3CO2H (2.0 g, 5.56 mmol), 2-(4-methoxyphenyl)ethyl bromide (1.27 g, 5.93 mmol ), potassium carbonate (1.95 g, 1.41 mmol) and anhydrous dimethylformamide (20 mL). Warm to approximately 90° C. and stir overnight. Allow to cool to room temperature and partition between a 2:1 mixture of ethyl acetate: toluene and water. Separate the aqueous phase and wash the organic phase with water and saturated sodium chloride. Dry (Na2SO4) and evaporate the solvent Purify by chromatography (40% ethyl acetate/hexane) and recrystallize (cyclohexane) to give the title compound pale yellow plates; mp 114°-116° C.

reactant | (benzo[b]thiophene-3-yl)(4-piperidinyl)methanone | S1C2=C(C(=C1)C(=O)C1CCNCC1)C=CC=C2 | C14H15NOS
reactant | CF3CO2H | 5.56 mmol, 2.0 g | C(F)(F)(F)C(=O)O | C2HF3O2
reactant | 2-(4-methoxyphenyl)ethyl bromide | 5.93 mmol, 1.27 g | COC1=CC=C(C=C1)CCBr | C9H11BrO
reactant | potassium carbonate | 1.41 mmol, 1.95 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | [Benzo[b ]thiophene-3-yl][1-[2-(4-methoxyphenyl)ethyl]-4-piperidinyl]methanone | S1C2=C(C(=C1)C(=O)C1CCN(CC1)CCC1=CC=C(C=C1)OC)C=CC=C2 | C23H25NO2S
